US07851626B2
rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(4-hydroxy-piperidin-1-yl)-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 4-hydroxy-piperidine (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C32H33N3O3F3Cl2 [(M+H)+] 634.1846, observed 634.1846.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C27H22Cl3F3N2O2
reactant | 4-hydroxy-piperidine | OC1CCNCC1 | C5H11NO
product | rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(4-hydroxy-piperidin-1-yl)-methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCC(CC1)O)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C32H32Cl2F3N3O3
